### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries/Exp): more lemmas

### PR DESCRIPTION
**Pull request by rwst**
Adds 
* `PowerSeries.derivative_exp`: The derivative of exp equals exp: `d⁄dX A (exp A) = exp A`.
* `PowerSeries.exp_unique_of_derivative_eq_self`: A power series with derivative equal to itself
  and constant term `1` must be `exp`.
* `PowerSeries.isUnit_exp`: `exp A` is a unit (invertible).
* `PowerSeries.order_exp`: The order of `exp A` is `0`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Exp.lean [hunk 1]
```diff
@@ -59,6 +64,61 @@ theorem map_exp : map (f : A →+* A') (exp A) = exp A' := by
...
+    -- Convert to nsmul form and use smul_right_inj
+    rw [← Nat.cast_succ, mul_comm, ← nsmul_eq_mul, mul_comm, ← nsmul_eq_mul] at h
+    exact (smul_right_inj (Nat.succ_ne_zero n)).mp h
+
+/-! ### Order and invertibility -/
+
+theorem isUnit_exp (A : Type*) [Ring A] [Algebra ℚ A] : IsUnit (exp A) :=
+  isUnit_iff_constantCoeff.mpr (by simp)
+
+theorem order_exp (A : Type*) [Ring A] [Algebra ℚ A] [Nontrivial A] : (exp A).order = 0 :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/Exp.lean:111]:
```suggestion
@[simp]
theorem order_exp (A : Type*) [Ring A] [Algebra ℚ A] [Nontrivial A] : (exp A).order = 0 :=
```

File: Mathlib/RingTheory/PowerSeries/Exp.lean [hunk 2]
```diff
@@ -59,6 +64,61 @@ theorem map_exp : map (f : A →+* A') (exp A) = exp A' := by
...
   simp
 
+/-! ### Derivative of exp -/
+
+theorem derivative_exp (A : Type*) [CommRing A] [Algebra ℚ A] :
+    d⁄dX A (exp A) = exp A := by
+  ext n
+  rw [coeff_derivative, coeff_exp, coeff_exp]
+  -- Goal: algebraMap ℚ A (1 / (n + 1)!) * (n + 1) = algebraMap ℚ A (1 / n!)
+  -- In ℚ-algebras: (n + 1 : A) = algebraMap ℚ A (n + 1)
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/Exp.lean]: If you want to remind the reader of the goal state, then you could use the `show` tactic.
On the other hand, the consensus is that readers are expected to have an infoview open if they want to study a proof, so they can just glance at that to see the context.

File: Mathlib/RingTheory/PowerSeries/Exp.lean [hunk 3]
```diff
@@ -59,6 +64,61 @@ theorem map_exp : map (f : A →+* A') (exp A) = exp A' := by
...
+    -- eq1: coeff (n + 1) f * (n + 1) = coeff n f
+    have eq2 : coeff n (d⁄dX A (exp A)) = coeff n (exp A) := congrArg (coeff n) (derivative_exp A)
+    rw [coeff_derivative] at eq2
+    -- eq2: coeff (n + 1) (exp A) * (n + 1) = coeff n (exp A)
+    rw [ih] at eq1
+    -- eq1: coeff (n + 1) f * (n + 1) = coeff n (exp A)
+    -- eq2: coeff (n + 1) (exp A) * (n + 1) = coeff n (exp A)
+    have h : coeff (n + 1) f * (n + 1) = coeff (n + 1) (exp A) * (n + 1) := by
+      rw [eq1, eq2]
+    -- Convert to nsmul form and use smul_right_inj
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/Exp.lean]: For the same reason as above, I would drop the comments.
